US06538150B2
After addition of 365 ml of concentrated hydrochloric acid (4.37 mol) and 9 g of PtO2, a suspension of 900 g (4.37 mol) of methyl 4-cyano-2-nitrobenzoate in 13.5 l of methanol is first hydrogenated at room temperature at a hydrogen pressure of 1 bar. After the hydrogen uptake has subsided, the pressure is increased to 17 bar, and hydorgenation is continued until the hydrogen uptake is complete. For work-up, the pressure is released to atmospheric pressure, the catalyst is removed by filtration through silica gel and the filtrate is concentrated completely in vacuo. Digestion of the residue with ethyl acetate yields 3-amino-4-methoxycarbonylbenzylammonium chloride, yield 757 g (80%), melting point 185-190° C. (decomp.).

reactant | hydrochloric acid | 4.37 mol, 365 ml | Cl | ClH
reactant | methyl 4-cyano-2-nitrobenzoate | 4.37 mol, 900 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)[N+](=O)[O-] | C9H6N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 13.5 l | CO | CH4O
catalyst | PtO2 | 9 g | O=[Pt]=O
product | 3-amino-4-methoxycarbonylbenzylammonium chloride | [Cl-].NC=1C=C(C[NH3+])C=CC1C(=O)OC | InChI=1S/C9H12N2O2.ClH/c1-13-9(12)7-3-2-6(5-10)4-8(7)11;/h2-4H,5,10-11H2,1H3;1H
